US06294558B1
3-Chloro-4-fluorobenzenesulfonamide (step 1)
To a solution of 3-chloro-4-fluorobenzenesulfonyl chloride (2.29 g, 10 mmol) in methylene chloride (30 mL) was added 25% ammonium hydroxide (10 mL) at room temperature and the mixture was stirred for 1 hour. The solvent was removed in vacuo. The residue was redissolved in ethyl acetate (50 mL) and the whole washed with water and brine. After dried over MgSO4 and concentration in vacuo. The resulting solid was recrystallized from ether-hexane to give the title compound (1.429 g, 68.2% yield).

reactant | 3-chloro-4-fluorobenzenesulfonyl chloride | 10 mmol, 2.29 g | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-4-fluorobenzenesulfonamide | 1.429 g, 68.2% yield | ClC=1C=C(C=CC1F)S(=O)(=O)N | C6H5ClFNO2S
